US07713993B2
(3) Synthesis of 2-(4-fluorophenyl)-2-oxoethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylate
IPEA (0.28 mL) was added to a solution of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (200 mg) and 4-fluorophenacyl bromide (185 mg) in DMF (3 mL), and the reaction solution was stirred at room temperature for one hour. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was suspended in diethyl ether, and the solid was collected by filtration to obtain 230 mg of the title compound. The property values of the compound are as follows.

reactant | IPEA | 0.28 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 200 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | 4-fluorophenacyl bromide | 185 mg | FC1=CC=C(C(CBr)=O)C=C1 | C8H6BrFO
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-fluorophenyl)-2-oxoethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylate | 230 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)OCC(=O)C1=CC=C(C=C1)F | C22H19FN2O4
